US06320050B1
A solution of 6-[2-(4-chloro-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester (prepared in Example 31(B)(c), 83.3 mg, 0.21 mmol) in tetrahydrofuran (2.1 mL) was added to a cooled (0° C.) slurry of lithium aluminum hydride (12.0 mg, 0.32 mmol) in tetrahydrofuran (1.54 mL). The reaction mixture was stirred at 0° C. for 2.5 h. The reaction was then quenched by the dropwise addition of water (25 mL). The reaction was further diluted with water and was then extracted with ethyl acetate (3×35 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 70/30 hexanes/ethyl acetate) afforded 2-(4-chloro-phenyl)-3-cyclopentyl-N-(5-hydroxymethyl-pyridin-2-yl)-propionamide (12.5 mg, 16.1%) as a white solid: mp 60-62° C.; EI-HRMS m/e calcd for C20H23ClN2O2(M+) 358.1448, found 358.1443.

reactant | 6-[2-(4-chloro-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester | 0.21 mmol, 83.3 mg | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC=C(C=C1)Cl)=O)=O | C21H23ClN2O3
reactant | lithium aluminum hydride | 0.32 mmol, 12.0 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 2.1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.54 mL | O1CCCC1 | C4H8O
product | 2-(4-chloro-phenyl)-3-cyclopentyl-N-(5-hydroxymethyl-pyridin-2-yl)-propionamide | 12.5 mg, 16.1% | ClC1=CC=C(C=C1)C(C(=O)NC1=NC=C(C=C1)CO)CC1CCCC1 | C20H23ClN2O2
